US08222416B2
A solution of 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide (340 mg, 0.59 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 4 mL, 4 mmol) was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (150 mL), and washed with a saturated aqueous ammonium chloride solution, brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide (276 mg, quant.) as a white solid: LC/MS m/e calcd for C25H29N3O4S [M+H]+ 468.59, observed 468.2.

reactant | 2-{1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide | 0.59 mmol, 340 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OCC(=O)N(C)C)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C31H33N3O6S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mmol, 1 M, 4 mL | O1CCCC1 | C4H8O
product | 2-{2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-1H-pyrrolo[2,3-b]pyridin-5-yloxy}-N,N-dimethyl-acetamide | 276 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OCC(=O)N(C)C)N1 | C25H29N3O4S
